US09315521B2
To a solution of ethyl 2-chloropyridine-3-carboxylate (15 g, 81 mmol) in anhydrous 1,4-dioxane (150 mL) at room temperature was added (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium (II) (1.3 g, 1.6 mmol) followed by a diethylzinc solution (75 mL, 83 mmol, 1.1 M solution in toluene). The mixture was stirred at 70° C. for 1 hour. After cooling to room temperature, the reaction was quenched with MeOH. Ethyl acetate (200 mL) was added. The mixture was extracted with 0.2 N HCl (200 mL). The organic layer was recovered. The pH of the aqueous phase was brought around 6 with 2 N NaOH. The mixture was extracted with EtOAc (1×100 mL). The combined organic extracts were dried over MgSO4, filtered, evaporated, and dried in vacuo. The crude product was purified by flash chromatography (0-20% ethyl acetate/hexane), affording ethyl 2-ethylpyridine-3-carboxylate (8.8 g, 61% yield)

reactant | ethyl 2-chloropyridine-3-carboxylate | 81 mmol, 15 g | ClC1=NC=CC=C1C(=O)OCC | C8H8ClNO2
reactant | diethylzinc | 83 mmol, 1.1 M, 75 mL | C(C)[Zn]CC
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | ethyl 2-ethylpyridine-3-carboxylate | 8.8 g, 61% yield | C(C)C1=NC=CC=C1C(=O)OCC | C10H13NO2
